US05506235
4-Tetradecyl-2-methylquinolin-6-ol Hydrochloride Hydrate
A solution of 150 mg (0.78 mmol) of 4-chloro-2-methylquinolin-6-ol, 174 mg (0.81 mmol) of n-tetradecylamine, and 5 mL of n-butanol was heated under reflux for 24 hours. Excess butanol was removed by codistillation with cyclohexane. The residue was chromatographed on 30 g of silica gel (eluent 1:9 methanol-dichloromethane) to furnish crude product. This was taken up in methanol, and the solution was treated with dry hydrogen chloride gas. The solution was evaporated under reduced pressure to give the title compound as crystalline material: m.p. 180°-183° C.

reactant | 4-chloro-2-methylquinolin-6-ol | 0.78 mmol, 150 mg | ClC1=CC(=NC2=CC=C(C=C12)O)C | C10H8ClNO
reactant | n-tetradecylamine | 0.81 mmol, 174 mg | C(CCCCCCCCCCCCC)N | C14H31N
reactant | n-butanol | 5 mL | C(CCC)O | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-Tetradecyl-2-methylquinolin-6-ol Hydrochloride Hydrate | O.Cl.C(CCCCCCCCCCCCC)C1=CC(=NC2=CC=C(C=C12)O)C | InChI=1S/C24H37NO.ClH.H2O/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-21-18-20(2)25-24-17-16-22(26)19-23(21)24;;/h16-19,26H,3-15H2,1-2H3;1H;1H2
